US08669208B2
Ethyl 3,3-dimethyl-oxirane-2-carboxylate
To a stirred solution of propan-2-one (11.52 ml, 157 mmol) and ethyl 2-chloroacetate (25.04 ml, 235 mmol) in dry diethyl ether (125 ml) at −10° C. under nitrogen was added sodium ethoxide (10.66 g, 157 mmol) portionwise, keeping the temperature below 5° C. After addition was complete, the mixture was stirred for two hours at −10° C., whereafter the reaction was continued at room temperature for three hours. The reaction mixture was quenched with saturated aqueous ammonium chloride, the phases were separated, and the aqueous layer was extracted with diethyl ether (100 ml). The combined organic phases were dried over Na2SO4 and evaporated in vacuo). The resulting residue was purified by vacuum distillation. The major fraction (−25 mbar, 82° C.-85° C., 14.3 g) consisted of the desired product, containing 6.4 mol % ethyl chloroacetate. This was used in the next step without further purification.

reactant | propan-2-one | 157 mmol, 11.52 ml | CC(C)=O | C3H6O
reactant | ethyl 2-chloroacetate | 235 mmol, 25.04 ml | ClCC(=O)OCC | C4H7ClO2
reactant | sodium ethoxide | 157 mmol, 10.66 g | [O-]CC.[Na+]
solvent | diethyl ether | 125 ml | C(C)OCC | C4H10O
product | Ethyl 3,3-dimethyl-oxirane-2-carboxylate | CC1(C(O1)C(=O)OCC)C | C7H12O3
